US05175224
3 g of NaOH were dissolved in 5 ml of water in a 250 ml three-necked flask, 3.8 g (25 mmol) of 3,5-dimercapto-1,2,4-thiadiazole (preparation analogous to U.S. Pat. No. 3,899,502 or Z. Anorgan. Allgem. Chemie volume 486 (1982), pages 111-115) were added and the mixture was heated to 100° C. 79 g (50 mmol) of 1-chloro-4-nitrobenzene, dissolved in 75 ml of DMF, were metered into the clear solution. After the mixture had been boiled under reflux for 4 hours, it was evaporated and the residue was taken up in water, washed and filtered off. After recrystallization from an acetone-water mixture, 9 g (92% of theory) of 3,5-bis-(4-nitrophenylthio)-1,2,4-thiadiazole were obtained.

reactant | NaOH | 3 g | [OH-].[Na+]
reactant | 3,5-dimercapto-1,2,4-thiadiazole | 25 mmol, 3.8 g | SC1=NSC(=N1)S | C2H2N2S3
reactant | 1-chloro-4-nitrobenzene | 50 mmol, 79 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | water | 5 ml | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 3,5-bis-(4-nitrophenylthio)-1,2,4-thiadiazole | 9 g, 92% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NSC(=N1)SC1=CC=C(C=C1)[N+](=O)[O-] | C14H8N4O4S3
